US09290451B2
a) tert-Butyl 1-amino-2-methyl-1-oxopropan-2-ylcarbamate
A mixture of 2-(tert-butoxycarbonylamino)-2-methylpropanoic acid (CAN: 30992-29-1, 20 g, 98 mmol), di-tert-butyl dicarbonate (CAN 24424-99-5, 27.67 g, 147 mmol) and pyridine (4.6 mL) in acetonitrile (500 mL) was stirred at room temperature for 20 min. Ammonia (10 mL) was added dropwise for 20 min. The resulting reaction mixture was stirred for 4 h. After removal of most of the solvent under reduced pressure, the solid was filtered off and washed with acetonitrile. The solid was brought to dryness under reduced pressure to give the title compound (17.5 g, 88%) as white solid; MS (EI): m/e 225.1 [M+Na]+.

reactant | 2-(tert-butoxycarbonylamino)-2-methylpropanoic acid | 98 mmol, 20 g | C(C)(C)(C)OC(=O)NC(C(=O)O)(C)C | C9H17NO4
reactant | di-tert-butyl dicarbonate | 147 mmol, 27.67 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine | 4.6 mL | N1=CC=CC=C1 | C5H5N
reactant | Ammonia | 10 mL | N | H3N
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | tert-Butyl 1-amino-2-methyl-1-oxopropan-2-ylcarbamate | 17.5 g, 88% | NC(C(C)(C)NC(OC(C)(C)C)=O)=O | C9H18N2O3
